US08106064B2
3-[3-(5-Isopropyl-2,6-dioxo-1,2,3,6-tetrahydro-pyrimidine-4-carbonyl)-phenyl]-acrylonitrile (114):
To a stirred solution of 3-{3-[5-isopropyl-2,6-bis-(4-methoxy-benzyloxy)-pyrimidine-4-carbonyl]-phenyl}-acrylonitrile (1.25 g, 2.23 mmol) in acetonitrile (10 ml) at room temperature, was added ceric ammonium nitrate (3.67 g, 6.70 mmol) followed by distilled water (5 ml). After 3 hr., the reaction mixture was diluted with EA, washed with water, dried with anhydrous magnesium sulfate, filtered, and evaporated in vacuo to give a crude product as a white solid. The crude product was purified by silica gel column chromatography (eluent, EA:hexanes (4:1)) to afford 240 mg (35%) of a white solid. m.p. 210-211° C.; 1H NMR (200 MHz, CD3OD/CDCl3) δ 1.10 (6H, d, J=6.8 Hz), 2.39 (1H, m), 6.03 (1H, d, J=16.8 Hz), 7.45 (1H, d, J=16.8 Hz), 7.58 (3H, m), 8.01 (1H, s); m/z (LC/Mass, EI) 310 (M+H+).

reactant | 3-{3-[5-isopropyl-2,6-bis-(4-methoxy-benzyloxy)-pyrimidine-4-carbonyl]-phenyl}-acrylonitrile | 2.23 mmol, 1.25 g | C(C)(C)C=1C(=NC(=NC1OCC1=CC=C(C=C1)OC)OCC1=CC=C(C=C1)OC)C(=O)C=1C=C(C=CC1)C=CC#N | C33H31N3O5
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 3-[3-(5-Isopropyl-2,6-dioxo-1,2,3,6-tetrahydro-pyrimidine-4-carbonyl)-phenyl]-acrylonitrile | 240 mg, 35% | C(C)(C)C1=C(NC(NC1=O)=O)C(=O)C=1C=C(C=CC1)C=CC#N | C17H15N3O3
